US03988468
16 g of 2,5-dimethoxybenzene-sulphonyl chloride are dissolved in 100 ml of THF, while stirring, and a mixture of 20 ml of concentrated H2SO4 and 60 ml of water is then added, followed by 25 g of zinc dust, added in portions at 50°-55° and stirring is continued overnight at 20°. The THF is then stripped off and the mixture is worked up with water and methylene chloride to give 2,5-dimethoxythiophenol, b.p. 106°-108°/0.3 mm.

reactant | 2,5-dimethoxybenzene-sulphonyl chloride | 16 g | COC1=C(C=C(C=C1)OC)S(=O)(=O)Cl | C8H9ClO4S
reactant | H2SO4 | 20 ml | OS(=O)(=O)O | H2O4S
reactant | water | 60 ml | O | H2O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | zinc | 25 g | [Zn] | Zn
product | 2,5-dimethoxythiophenol | COC1=C(C=C(C=C1)OC)S | C8H10O2S
